US06809097B1
A mixture of 2-acetamido-6-aminopyridine (2.9 g, 19 mmol), (Angew. chem. 1995, 107, 2589), and 2,2-dimethyl-5-methoxymethylene-1,3-dioxane-4,6-dione (4.28 g, 23 mmol), (Montatsh. Chem. 1967, 98, 564), in ethanol (75 ml) was stirred and heated at reflux for 5 hours. The mixture was allowed to cool and the precipitated product was collected by filtration and dried to give 5-((6-acetamido-2-pyridylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione (1.3 g, 22%) as a yellow solid.

reactant | 2-acetamido-6-aminopyridine | 19 mmol, 2.9 g | C(C)(=O)NC1=NC(=CC=C1)N | C7H9N3O
reactant | 2,2-dimethyl-5-methoxymethylene-1,3-dioxane-4,6-dione | 23 mmol, 4.28 g | CC1(OC(C(C(O1)=O)=COC)=O)C | C8H10O5
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5-((6-acetamido-2-pyridylamino)methylene)-2,2-dimethyl-1,3-dioxane-4,6-dione | 1.3 g, 22% | C(C)(=O)NC1=CC=CC(=N1)NC=C1C(OC(OC1=O)(C)C)=O | C14H15N3O5
